US08124641B2
Starting with {(R)-4-[(3-fluoro-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester and ethanethiol using a method analogous to the one described for the 1st step of example 7-1, {(R)-4-[(3-ethylsulfanyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester (136 mg, 86%) was obtained as a white solid. MS cald. for C21H26F3N3O4S2 505, obsd. (ESI+) [(M+H)+] 506.

reactant | {(R)-4-[(3-fluoro-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)F)=O | C19H21F4N3O4S
reactant | ethanethiol | C(C)S | C2H6S
product | {(R)-4-[(3-ethylsulfanyl-5-trifluoromethyl-benzenesulfonyl)-methyl-amino]-4,5,6,7-tetrahydro-indazol-1-yl}-acetic acid ethyl ester | 136 mg, 86% | C(C)OC(CN1N=CC=2[C@@H](CCCC12)N(C)S(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)SCC)=O | C21H26F3N3O4S2
